US08497368B2
(E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-hydrazinecarboxamide (Example 1)
To a solution of 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone (320 mg, 1 mmol) in methanol (30 mL) was added semicarbazide hydrochloride (334 mg, 3.0 mmol). Triethyl amine was added dropwise to the reaction mixture to adjust the pH to 5˜6. The reaction mixture was stirred at room temperature overnight. The precipitate was collected by filtration and dried over vacuum pump to afford 250 mg (yield: 66%) title compound as a white solid. 1H-NMR 400 MHz, DMSO-d6) δ ppm 9.69 (s, 1H), 8.85 (dd, 1H), 8.30 (d, 1H), 8.21 (d, 1H), 7.98 (d, 1H), 7.94 (d, 1H), 7.77 (d, 1H), 7.66 (s, 1H), 7.47 (q, 1H), 6.73 (b, 2H), 4.56 (s, 2H), 2.23 (s, 3H). LCMS (method A): [MH]+=378, tR=4.64 min.

reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone | 1 mmol, 320 mg | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)C(C)=O | C18H13FN4O
reactant | semicarbazide hydrochloride | 3.0 mmol, 334 mg | Cl.NNC(=O)N
reactant | Triethyl amine | C(C)N(CC)CC | C6H15N
solvent | methanol | 30 mL | CO | CH4O
product | (E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-hydrazinecarboxamide | 250 mg, yield: 66% | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)\C(\C)=N\NC(=O)N | C19H16FN7O
